US07989438B2
Step 3: 1-benzyl-2-(chloromethyl)pyrrolidinium chloride
(1-benzylpyrrolidin-2-yl)methanol was slowly added to thionyl chloride (45 eq) and the resulting mixture was stirred for 15 h at 35° C. All the volatiles were removed in vacuo. The yellow oil residue was treated with Et2O and re-evaporated to drive off excess thionyl chloride. The crude material was then dried at the high vacuum pump for 2 h to afford the product (100%). 1H NMR (400 MHz, CDCl3) 1.85-2.01 (m, 1H), 2.15-2.32 (m, 3H), 2.85-3.05 (m, 1H), 3.43-3.54 (m, 1H), 3.65-3.79 (m, 1H), 3.92-4.02 (m, 2H), 4.20-4.22 (m, 1H), 4.41-4.43 (m, 1H), 7.44-7.62 (m, 5H).

reactant | (1-benzylpyrrolidin-2-yl)methanol | C(C1=CC=CC=C1)N1C(CCC1)CO | C12H17NO
reactant | thionyl chloride | 45 eq | S(=O)(Cl)Cl | Cl2OS
product | 1-benzyl-2-(chloromethyl)pyrrolidinium chloride | 100% | [Cl-].C(C1=CC=CC=C1)[NH+]1C(CCC1)CCl | InChI=1S/C12H16ClN.ClH/c13-9-12-7-4-8-14(12)10-11-5-2-1-3-6-11;/h1-3,5-6,12H,4,7-10H2;1H
